US04788196
1-Methyl-3-{4-[4-(4-pyridyl)piperazin-1-yl]phenyl }urea
Methyl isocyanate (0.18 g) was added to a stirred solution of 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (0.51 g) in dry N,N-dimethylformamide (5 ml). The resulting mixture was stirred for 3 hours, diluted with a few ml. of ethanol and filtered. The solid was crystallised from methanol to give the title compound (0.33 g), m.p. 258°-260° C. Found: C,65.46; H,6.83; N,22.25. C17H21N5O requires: C,65.57; H,6.80; N,22.49%.

reactant | Methyl isocyanate | 0.18 g | CN=C=O | C2H3NO
reactant | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 0.51 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-3-{4-[4-(4-pyridyl)piperazin-1-yl]phenyl }urea | 0.33 g | CNC(=O)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C17H21N5O
